US05198449
3-(4-Fluorobenzoyl)piperidine
Reaction of 1-acetylnipecotoyl chloride with fluorobenzene by the procedures used to prepare the compound of Preparation 1 gives the title compound.

reactant | 1-acetylnipecotoyl chloride | C(C)(=O)N1CC(C(=O)Cl)CCC1 | C8H12ClNO2
reactant | fluorobenzene | FC1=CC=CC=C1 | C6H5F
product | 3-(4-Fluorobenzoyl)piperidine | FC1=CC=C(C(=O)C2CNCCC2)C=C1 | C12H14FNO
